US06306860B1
5-[N-(1,1-dimethylethyl)carbamoyl]-2-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]pyridine
By the same procedure as described example 24, the synthesis was carried out starting with 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid and using 2-methyl-2-propaneamine. And then, the product was recrystallized with isopropanol to give a desired compound.

reactant | 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)O)C=C1 | C19H23N5O3
reactant | 2-methyl-2-propaneamine | CC(C)(C)N | C4H11N
product | 5-[N-(1,1-dimethylethyl)carbamoyl]-2-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]pyridine | Yield: 82% | CC(C)(C)NC(=O)C=1C=CC(=NC1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C | C23H32N6O2
